US07452911B2
5-(4-chloro-phenyl)-2-{4-[2-(4-isopropyl-piperidin-1-yl)-ethoxy]-3-methyl-phenylethynyl}-pyridine
164 mg (1.0 mmol) 4-isopropyl-piperidine (used as the hydrochloride) are added to a solution of 88 mg (0.2 mmol) 2-{4-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-2-methyl-phenoxy}-ethyl methanesulphonate and 0.34 mL (2 mmol) ethyldiisopropylamine in 1.8 mL DMF and the reaction mixture is stirred for 24 h at RT. It is filtered using an injection filter and the reaction mixture is purified by HPLC.

reactant | 4-isopropyl-piperidine | 1.0 mmol, 164 mg | C(C)(C)C1CCNCC1 | C8H17N
reactant | hydrochloride | Cl | ClH
reactant | 2-{4-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-2-methyl-phenoxy}-ethyl methanesulphonate | 0.2 mmol, 88 mg | CS(=O)(=O)OCCOC1=C(C=C(C=C1)C#CC1=NC=C(C=C1)C1=CC=C(C=C1)Cl)C | C23H20ClNO4S
reactant | ethyldiisopropylamine | 2 mmol, 0.34 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.8 mL | CN(C)C=O | C3H7NO
product | 5-(4-chloro-phenyl)-2-{4-[2-(4-isopropyl-piperidin-1-yl)-ethoxy]-3-methyl-phenylethynyl}-pyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC(=C(C=C1)OCCN1CCC(CC1)C(C)C)C | C30H33ClN2O
